US05064833
Guanidine hydrochloride (47.77 g, 0.5 mol) was added portionwise to a stirred suspension of sodium methoxide (32.42 g, 0.60 mol) in n-butanol (450 ml) at ambient temperature over 0.5 hour. After a further 0.5 hour a solution of methyl anthranilate (15 g, 0.10 mol) in n-butanol (150 ml) was added dropwise and then slowly brought to reflux. After distilling off ca. 100 ml of solvent the reaction mixture was heated under reflux at 116° for 117 hours. The cooled suspension was filtered, excess solvent removed and the residue dissolved in water, acidified to pH 5 and extracted with diethyl ether. The aqueous suspension was reacidified to pH 5, filtered off, washed with water and dried. The solid was then triturated in methanol, filtered, washed with ether and dried to give 2-amino-4-(3H)-quinazolone (3.0 g, 19%) m.p. >300°.

reactant | Guanidine hydrochloride | 0.5 mol, 47.77 g | Cl.NC(=N)N
reactant | sodium methoxide | 0.60 mol, 32.42 g | C[O-].[Na+]
reactant | methyl anthranilate | 0.10 mol, 15 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
solvent | n-butanol | 450 ml | C(CCC)O | C4H10O
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 2-amino-4-(3H)-quinazolone | 3.0 g, 19% | NC1=NC2=CC=CC=C2C(N1)=O | C8H7N3O
